US08022205B2
5-(2-Morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-ylamine
In the same manner as Step D in Example 1-B-01, from 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (119 mg, 0.374 mmol) and bis-(4-methoxybenzyl)-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidin-2-yl]amine, the desired compound was obtained as a colorless solid (16.6 mg, yield 12%).

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | 0.374 mmol, 119 mg | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C15H16ClN5O
reactant | bis-(4-methoxybenzyl)-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidin-2-yl]amine | COC1=CC=C(CN(C2=NC=C(C=N2)B2OC(C(O2)(C)C)(C)C)CC2=CC=C(C=C2)OC)C=C1 | C26H32BN3O4
product | 5-(2-Morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-ylamine | N1(CCOCC1)C=1N=C(C2=C(N1)N(CC2)C=2C=NC=CC2)C=2C=NC(=NC2)N | C19H20N8O
